US06329392B1
1-Benzoyl-3-[2-[4-(benzothiazol-2-yl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.63 g, 1.45 mmol) and 4-(benzothiazol-2-yl)-piperidine (0.35 g, 1.60 mmol), and sodium bicarbonate (0.24 g, 2.9 mmol) in tetrahydrofuran/water (15/4) (30 mL). Heat to reflux. After 48 hours, cool to ambient temperature and evaporate in vacuo to obtain a residue. Partition the residue between dichloromethane and 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give a solid. Combine the solid with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 65° C. to give the title compound: Rf=0.24 (silica gel, 5/1 ethyl acetate/methanol); mp; 60-62° C. Elemental Analysis calculated for C33H37N3O3S·0.25 H1O: C 70.75; H 6.75; N 7.50; Found: C 70.79; H 6.70; N 7.39.

reactant | 1-benzoyl-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 1.45 mmol, 0.63 g | C(C1=CC=CC=C1)(=O)N1CC(CC1)(CCS(=O)(=O)C)C1=CC(=C(C=C1)OC)OC | C22H27NO5S
reactant | 4-(benzothiazol-2-yl)-piperidine | 1.60 mmol, 0.35 g | S1C(=NC2=C1C=CC=C2)C2CCNCC2 | C12H14N2S
reactant | sodium bicarbonate | 2.9 mmol, 0.24 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran water | 30 mL | O1CCCC1.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Benzoyl-3-[2-[4-(benzothiazol-2-yl)-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1CC(CC1)(C1=CC(=C(C=C1)OC)OC)CCN1CCC(CC1)C=1SC2=C(N1)C=CC=C2 | C33H37N3O3S
